US04562186
3-(4-Chlorobenzoyl)-5-phenylthiomethyl-1,2,4-oxadiazole
A solution of 8.1 ml of triethylamine in 30 ml Et2O was added to a solution of 7.5 g of 3-(4-chlorobenzoyl)-5-chloromethyl-1,2,4-oxadiazole and 3.0 ml of thiophenol in 20 ml of acetone and 80 ml of Et2O at room temperature. This mixture was stirred for one hour. The reaction mixture was diluted with Et2O, washed with 5% HCl (2×) and brine, and dried over MgSO4. Concentration gave 9.0 g of an oil. Purification by high pressure liquid chromatography with 70% CH2CL2 /hexane as an eluent yielded 6.0 g (62%) of an oil.

reactant | triethylamine | 8.1 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(4-chlorobenzoyl)-5-chloromethyl-1,2,4-oxadiazole | 7.5 g | ClC1=CC=C(C(=O)C2=NOC(=N2)CCl)C=C1 | C10H6Cl2N2O2
reactant | thiophenol | 3.0 ml | C1(=CC=CC=C1)S | C6H6S
solvent | Et2O | 30 ml | CCOCC | C4H10O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | Et2O | 80 ml | CCOCC | C4H10O
product | 3-(4-Chlorobenzoyl)-5-phenylthiomethyl-1,2,4-oxadiazole | 9.0 g | ClC1=CC=C(C(=O)C2=NOC(=N2)CSC2=CC=CC=C2)C=C1 | C16H11ClN2O2S
